US09238639B2
A) 4-Chloro-1-fluoro-2-methoxybenzene
To a mixture of 5-chloro-2-fluorophenol (4.68 g) and DMF (dry) (50 mL) were added K2CO3 (8.83 g) and iodomethane (3.99 mL) at room temperature. The mixture was stirred at room temperature for 4.5 h. The mixture was diluted with water and extracted with EtOAc. The organic layer was washed successively with water and brine, dried over MgSO4, and concentrated in vacuo. The residue was purified by silica gel column chromatography (EtOAc/hexane) to give the title compound (4.60 g).

reactant | 5-chloro-2-fluorophenol | 4.68 g | ClC=1C=CC(=C(C1)O)F | C6H4ClFO
reactant | DMF | 50 mL | CN(C)C=O | C3H7NO
reactant | K2CO3 | 8.83 g | C(=O)([O-])[O-].[K+].[K+]
reactant | iodomethane | 3.99 mL | IC | CH3I
solvent | water | O | H2O
product | 4-Chloro-1-fluoro-2-methoxybenzene | 4.60 g | ClC1=CC(=C(C=C1)F)OC | C7H6ClFO
